* SpiceNetList
* 
* Exported from NTMB.sch at 15/06/2018 19:56
* 
* EAGLE Version 9.0.1 Copyright (c) 1988-2018 Autodesk, Inc.
* 
.TEMP=25.000000
* --------- .OPTIONS ---------
* --------- .PARAMS ---------
.PARAM bass_val=50
.PARAM treb_val=50
.PARAM mid_val=50
.PARAM mid_c=100n
.PARAM treb_ind=0
.PARAM bass_c=100n

* --------- devices ---------
R_R17 N_2 N_14 1800 
R_R4 N_20 N_5 2200 
R_R6 N_5 N_23 {50k*(1-bass_val/100)} 
C_C2 N_8 N_12 33n 
R_R14 N_6 N_2 2200 
R_R11 N_23 N_6 {50k*(bass_val/100)} 
C_C1 N_16 N_20 22u 
R_R7 N_12 N_11 {50k*(1-treb_val/100)} 
C_C4 N_21 N_19 {1/(1/820n+1/mid_c)} 
R_R5 N_20 N_17 350 
L_L2 N_7 N_21 300m 
R_R18 0 N_15 182k 
C_C3 N_5 N_23 {bass_c} 
R_R3 N_7 N_1 1159 
R_R15 N_18 N_2 350 
V_V3 N_3 0 9V 
C_C8 N_14 N_15 10u 
R_R2 N_20 N_8 270 
R_R1 0 N_16 2700 
R_R12 N_11 N_13 {50k*(treb_val/100)} 
C_C5 N_23 N_6 {bass_c} 
L_L1 N_1 N_22 {treb_ind} 
X_X1 N_4 N_1 N_3 0 N_2 MC33178 
R_R16 N_10 N_2 270 
V_V2 N_4 0 4V 
R_R10 N_22 N_11 680 
R_R13 N_19 N_18 {50k*(mid_val/100)} 
V_V1 N_16 0 DC 0V AC 1.022V 
C_C7 N_1 N_2 1800p 
R_R9 N_23 N_1 1800 
C_C6 N_13 N_10 33n 
R_R8 N_17 N_19 {50k*(1-mid_val/100)} 

* --------- models ---------

* model file: /Users/flamefork/Documents/eagle/NTMB/MC33178.mdl
* MC33178 operational amplifier
*"macromodel" subcircuit
*
* connections:
*    1 -  non-inverting input
*    2 -  inverting input
*    3 -  positive power supply
*    4 -  negative power supply
*    5 -  output
*
.subckt MC33178  1 2 3 4 5
*
  c1   11 12 8.660E-12
  c2    6  7 15.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 17.68E6
+ -20E6 20E6 20E6 -20E6
  ga    6  0 11 12 282.7E-6
  gcm   0  6 10 99 894.1E-12
  iee   3 10 dc 30.20E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   4 11 3.537E3
  rc2   4 12 3.537E3
  re1  13 10 1.800E3
  re2  14 10 1.800E3
  ree  10 99 6.623E6
  ro1   8  5 60
  ro2   7 99 40
  rp    3  4 164.5E3
  vb    9  0 dc 0
  vc    3 53 dc 1
  ve   54  4 dc 1.200
  vlim  7  8 dc 0
  vlp  91  0 dc 100
  vln   0 92 dc 100
  desd1  1  3 dx
  desd2  2  3 dx
.model dx D(Is=800.0E-18)
.model qx PNP(Is=800.0E-18 Bf=150)
.ends
*$


